US05516616
N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium Tetraphenylborate
A solution of 10.27 g (30 mmol) of sodium tetraphenylborate in 70 ml of water was added to a warm solution of 13.44 g (30 mmol) of N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium chloride prepared as described in Example 1 in 100 ml of water. A solid precipitate formed on cooling and 100 ml of water was added to the mixture after which the solid was collected, washed with water and dissolved in methylene chloride. The water layer was separated and the methylene chloride layer was dried over magnesium sulfate and concentrated. The solid was collected, recrystallized from ethyl acetate and dried. The yield of product was 9.16 g (41.7% of theory); mp=213°-214° C.

reactant | sodium tetraphenylborate | 30 mmol, 10.27 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium chloride | 30 mmol, 13.44 g | [Cl-].C(C)(C)(C)C=1C=C(C(=O)OCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C
solvent | water | 70 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | N-[2-(3,5-di-tert-butyl-4-hydroxybenzoyloxy)ethyl]-N,N-dimethylbenzylammonium Tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)C=1C=C(C(=O)OCC[N+](C)(C)CC2=CC=CC=C2)C=C(C1O)C(C)(C)C | InChI=1S/C26H37NO3.C24H20B/c1-25(2,3)21-16-20(17-22(23(21)28)26(4,5)6)24(29)30-15-14-27(7,8)18-19-12-10-9-11-13-19;1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24/h9-13,16-17H,14-15,18H2,1-8H3;1-20H/q;-1/p+1
